US09145441B2
L-valine tert-butyl ester hydrochloride (3.2 g, 15.259 mmol) was partitioned between dichloromethane and a saturated solution of sodium bicarbonate. The aqueous layer was extracted with dichloromethane. The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo to provide L-valine tert-butyl ester as a colourless oil which was dissolved in anhydrous dichloroethane (40 mL). This solution was treated with a solution of trimethylaluminum (15.2 mL, 30.516 mmol, 2 M in toluene). After stirring at room temperature for 1.5 h, the mixture was treated with a solution of 3-methyl-3-vinyl-dihydro-furan-2-one (641.7 mg, 5.086 mmol) in dichloroethane (10 mL). After stirring at 85° C. for 15 h, the reaction was cooled to 0° C., slowly quenched with hydrochloric acid (2 M). The aqueous layer was extracted with ethyl acetate (3×), the organics were combined, dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo to provide the title compound (1.053 g, 85%) as a white solid and as a 1:1 mixture of diastereoisomers.

reactant | L-valine tert-butyl ester hydrochloride | 15.259 mmol, 3.2 g | Cl.C(C)(C)(C)OC([C@@H](N)C(C)C)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | L-valine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
